US06498159B1
5.2 g of hydroxylamine hydrochloride, 12.2 g of sodium acetate, and 50 ml water were added to a mixture of 20 g N-(3-formyl-4-methoxybenzyl)phthalimide and 200 ml tetrahydrofuran, and stirred at room temperature for 1 hr. It was stirred at 60° C. for 1 hr, and then evaporated. Water was added to the resulting residue, and the insoluble matters were collected by filtration. These were washed with diethyl ether to give 20 g of N-(3-hydroxyimino-4-methoxybenzyl)phthalimide.

reactant | hydroxylamine hydrochloride | 5.2 g | Cl.NO
reactant | sodium acetate | 12.2 g | C(C)(=O)[O-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | N-(3-formyl-4-methoxybenzyl)phthalimide | 20 g | C(=O)C=1C=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1OC | C17H13NO4
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-(3-hydroxyimino-4-methoxybenzyl)phthalimide | 20 g | ON=C1CC(CN2C(C=3C(C2=O)=CC=CC3)=O)=CC=C1OC | C16H14N2O4
